US05338857
Dissolved in 100 ml of benzene were 5.4 g (23.6 mmol) of 3-phenyl-5-(1-hydroxy-2-methyl-2-butenyl)isoxazole, followed by the addition of 21.0 g (0.24 mol) of manganese dioxide. The mixture was stirred at room temperature for 24 hours. An insoluble material was filtered off and the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (eluent: 30:1 n-hexane/ethyl acetate), whereby 3-phenyl-5-(2-methyl-2butenoyl)isoxazole was obtained as colorless oil. Analytical results of the crystals obtained: Yield: 3.6 g (67%).

reactant | 3-phenyl-5-(1-hydroxy-2-methyl-2-butenyl)isoxazole | 23.6 mmol, 5.4 g | C1(=CC=CC=C1)C1=NOC(=C1)C(C(=CC)C)O | C14H15NO2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
catalyst | manganese dioxide | 0.24 mol, 21.0 g | [O-2].[O-2].[Mn+4]
product | 3-phenyl-5-(2-methyl-2butenoyl)isoxazole | C1(=CC=CC=C1)C1=NOC(=C1)C(C(=CC)C)=O | C14H13NO2
